Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fever, pancytopenia
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
 Mr. ___ is a ___ male with the past medical
history of reflux who presented with fevers and leukopenia.  He
was in his usual good state of health until last ___ and.  He
went for a run and felt very tired afterwards.  He went to sleep
and had night sweats.  On ___ he developed a temperature
recorded at 104 Fahrenheit.  On ___, due to the continued
night sweats and fevers, he presented to an urgent care where
blood tests revealed leukopenia and thrombocytopenia.  For these
results he was recommended to go to the emergency department
today.  In the emergency department he was evaluated by
hematology oncology.  He was found to have a skin lesion in his
left axilla.  They recommended a full workup for lymphoma, acute
infections, autoimmune diseases.  He is now admitted for this
workup.

ROS: Sinus pressure, itchy eyes, sneezing, seasonal allergies,
submandibular lymphadenopathy.  He also notes work stress 
related
to his job bending, chest tightness, headaches, and some
shortness of breath when lying down.  He denies any weight loss. 

He reports having one similar skin lesion on his left great toe 
a
few months ago.  This completely resolved on its own.

Went to a campfire in the woods about 1 month ago but does not
recall any insect bites.  Otherwise no recent travel.

 
Past Medical History:
GERD
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this
illness/reason for hospitalization.
 
Physical Exam:
EXAM(8)
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate. Slightly
enlarged tonsils bilaterally. Mucosa is pale. Mild submandibular
lymphadenopathy bilaterally.
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.
GU: No suprapubic fullness or tenderness to palpation.  Mild
bilateral inguinal lymphadenopathy.
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs.
SKIN: No rashes noted. NEURO: Alert, oriented, face symmetric, 
gaze conjugate with EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
___ 05:30AM BLOOD WBC-2.4* RBC-3.90* Hgb-11.9* Hct-34.3* 
MCV-88 MCH-30.5 MCHC-34.7 RDW-12.7 RDWSD-40.6 Plt Ct-87*
___ 04:30PM BLOOD WBC-1.8* RBC-3.85* Hgb-11.7* Hct-33.6* 
MCV-87 MCH-30.4 MCHC-34.8 RDW-12.6 RDWSD-40.5 Plt Ct-89*
___ 05:30AM BLOOD Hypochr-NORMAL Anisocy-NORMAL Poiklo-1+* 
Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL Ovalocy-OCCASIONAL 
Ellipto-OCCASIONAL
___ 05:30AM BLOOD Plt Smr-LOW* Plt Ct-87*
___ 04:30PM BLOOD Plt Smr-LOW* Plt Ct-89*
___ 04:30PM BLOOD ___ PTT-27.1 ___
___ 10:30PM BLOOD ___ 05:30AM BLOOD Parst S-NEGATIVE
___ 05:30AM BLOOD ALT-60* AST-72* AlkPhos-54 TotBili-0.8
___ 04:30PM BLOOD Lipase-36
___ 10:30PM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG HAV Ab-NEG 
IgM HAV-NEG
___ 10:30PM BLOOD HIV Ab-NEG
___ 04:30PM BLOOD ASA-NEG Acetmnp-NEG
___ 10:30PM BLOOD HCV Ab-NEG

CT abd/pelvis: 
1. Mild splenomegaly. 
2. No evidence of intra-abdominal or pelvic lymphadenopathy 

CT chest: 
1. Few mildly enlarged left axillary lymph nodes. No other 
lymphadenopathy.  
No evidence of intrathoracic malignancy. 
2. Please refer to separate report from concurrent CT abdomen 
pelvis for 
description of findings below the diaphragm. 

___ 07:55AM BLOOD WBC-4.5 RBC-3.78* Hgb-11.4* Hct-33.2* 
MCV-88 MCH-30.2 MCHC-34.3 RDW-12.5 RDWSD-39.6 Plt ___
___ 08:05AM BLOOD Parst S-NEGATIVE
___ 05:22AM BLOOD Parst S-NEGATIVE
___ 05:30AM BLOOD Parst S-NEG
___ 07:40AM BLOOD ALT-420* AST-354* LD(___)-559* CK(CPK)-56 
AlkPhos-56 TotBili-0.5
___ 08:05AM BLOOD ALT-319* AST-263* LD(LDH)-646* AlkPhos-57 
TotBili-0.7
___ 05:22AM BLOOD calTIBC-315 Ferritn-1079* TRF-242
___ 08:05AM BLOOD HAV Ab-NEG
___ 10:30PM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG HAV Ab-NEG 
IgM HAV-NEG
___ 07:40AM BLOOD AMA-NEGATIVE Smooth-POSITIVE*
___ 05:22AM BLOOD ___
___ 10:30PM BLOOD CRP-41.9*
___ 07:40AM BLOOD IgG-783 IgA-214 IgM-58
___ 10:30PM BLOOD HIV Ab-NEG
___ 04:30PM BLOOD ASA-NEG Acetmnp-NEG
___ 07:40AM BLOOD tTG-IgA-6
___ 01:00PM BLOOD HCV VL-NOT DETECT
___ 01:00PM BLOOD HIV1 VL-NOT DETECT
___ 10:30PM BLOOD CMV VL-NOT DETECT
___ 07:55AM BLOOD ALPHA-1-ANTITRYPSIN-PND
___ 08:05AM BLOOD HEPATITIS E ANTIBODY (IGM)-PND
___ 08:05AM BLOOD HERPES SIMPLEX VIRUS 1 AND 2 ANTIBODY 
IGM-PND
___ 11:47AM BLOOD BABESIA MICROTI DNA PCR-Test      
___ 11:47AM BLOOD ANAPLASMA PHAGOCYTOPHILUM DNA, 
QUALITATIVE-Test      
___ 05:30AM BLOOD ANAPLASMA PHAGOCYTOPHILUM (HUMAN 
GRANULOCYTIC EHRLICHIA AGENT) IGG/IGM-Test      
___ 10:30PM BLOOD EBV PCR, QUANTITATIVE, WHOLE BLOOD-Test   
   
___ 10:30PM BLOOD SED RATE-Test Name 
___ 10:30PM BLOOD PARVOVIRUS B19 ANTIBODIES (IGG & IGM)-PND

___ 07:55AM BLOOD WBC-4.4 RBC-3.80* Hgb-11.7* Hct-33.5* 
MCV-88 MCH-30.8 MCHC-34.9 RDW-12.6 RDWSD-39.3 Plt ___
___ 07:55AM BLOOD Glucose-103* UreaN-16 Creat-1.0 Na-145 
K-5.0 Cl-105 HCO3-29 AnGap-11
___ 07:55AM BLOOD ALT-602* AST-323* LD(LDH)-402* AlkPhos-58 
TotBili-0.5
___ 07:55AM BLOOD Ferritn-1040*
___ 07:40AM BLOOD IgG-783 IgA-214 IgM-58
 
Brief Hospital Course:
SUMMARY/ASSESSMENT: Mr. ___ is a ___ male with the 
past
medical history and findings noted above who presented with
fevers, pancytopenia and mild rash and developed hepatitis all 
thought to be due to viral process now improving. 

#Fevers with pancytopenia: Presented with newly reduced WBC of 
1.8. The differential included hematologic malignancy 
(lymphoma/leukemia). Hematology was consulted and felt the 
likelhood of this very low given no suspicious LN's seen on 
imaging or abnormal cells seen on smear.  Infectious disease was 
consulted and sent comprehensive workup. Viral and tick born 
illness were considered but all viral studies and tick born 
illness markers unrevealing. In addition bcx, ucx unrvealing. 
Hep serologies unrevealing. HIV
testing unrevealing. Tx with empiric cefepime until afeb and WBC
improved. He was treated with empiric doxy but was stopped after 

babesia, lyme, anaplasma all returned negative.   His Counts 
rapidly improved without intervention and on discharge from the 
hospital had returned to normal. Both ID and Heme/onc felt 
presentation was c/w viral process. 

#hepatitis-unclear etiology. No evidence of biliary obstruction
on imaging by CT. Suspect related to above process with either
viral infection. Full work up was sent and negative including 
Hep A, B, C, EBC, CMV. His hep E, HSV, AMA, anti SM, alpha 1 
antitrypsin remain pending. His LFTs were improving on 
discharge. The hematology team was were consulted to consider 
liver biopsy. They felt this was all likely ___ viral process 
and deferred liver biopsy. He will need his LFTs rechecked in 1 
week. If not trending back to normal would refer to outpatient 
hepatologist. 

CHRONIC/STABLE PROBLEMS:
#Reflux
home rabeprazole increased to BID, tums, sucralfate,
likely exacerbated by doxy. Will need outpt GI F/u. 

>30 minutes spent on complex discharge 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. RABEprazole 20 mg oral DAILY 

 
Discharge Medications:
1.  Sucralfate 1 gm PO QID 
RX *sucralfate [Carafate] 1 gram 1 tablet(s) by mouth every six 
(6) hours Disp #*56 Tablet Refills:*0 
2.  RABEprazole 20 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
fever and pancytopenia
hepatitis 
GERD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 

You were admitted for evaluation of fevers with pancytopenia 
(low blood counts of your white blood cells, red blood cells, 
and platelets). You had a work up for causes such as evaluation 
for various viruses and tick born causes and also had a CT scan 
to evaluate for enlarged lymph nodes. You were treated with 
antibiotics until the infectious studies turned up negative. You 
were seen by several specialists including infectious disease 
and hematology. Both thought that given you improved that these 
symptoms were most likely from viral illness. You will need your 
CBC rechecked in the next week. 

You also had an elevation in your liver function tests and were 
seen by the hepatology team. You underwent a liver ultrasound 
which was normal. Several tests were sent including hepatitis A, 
B, C all of which were negative. Ultimately the liver team felt 
this was secondary to a viral illness. 

As we discussed you will need your CBC and LFT (liver function 
tests) rechecked in the next week. If they do not improve back 
to normal you should set up follow up with a hematologist and 
hepatologist. 

It was a pleasure caring for you, 
Your ___ Team 
 
Followup Instructions:
___